US20010014679A1
Aniline (5.0 g, 50 mmol, Aldrich), sodium hydride (1.5 g, 50 mmol of an 80% dispersion in mineral oil) and 2,4-diamino-5-fluoroquinazoline (4.4 g, 25 mmol) in 80 mL of dimethyl sulfoxide were reacted as in Procedure A to give 0.3 g (4.8% yield) of 2,4-diamino-5-anilinoquinazoline, m.p. 279-283° C. (dec).

reactant | Aniline | 50 mmol, 5.0 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium hydride | [H-].[Na+]
reactant | 2,4-diamino-5-fluoroquinazoline | 25 mmol, 4.4 g | NC1=NC2=CC=CC(=C2C(=N1)N)F | C8H7FN4
solvent | dimethyl sulfoxide | 80 mL | CS(=O)C | C2H6OS
product | 2,4-diamino-5-anilinoquinazoline | 0.3 g, 4.8% yield | NC1=NC2=CC=CC(=C2C(=N1)N)NC1=CC=CC=C1 | C14H13N5
